US08981085B2
N-(5-Bromo-4-fluoro-1H-pyrrolo[2,3-b]pyridin-3-yl)-3-methoxybenzamide (215 mg, 0.590 mmol) and (R)-tert-butyl piperidin-3-ylcarbamate (414 mg, 2.07 mmol) were placed in n-BuOH (5 mL) and heated to 155° C. for 72 hours. The reaction was then cooled to room temperature and concentrated to dryness. The crude residue was purified by C-18 reverse phase flash chromatography (Biotage Horizon unit, C-18 25M column, 5-90% CH3CN/water gradient) to give (R)-tert-butyl 1-(5-bromo-3-(3-methoxybenzamido)-1H-pyrrolo[2,3-b]pyridin-4-yl)piperidin-3-ylcarbamate (238 mg, 74% yield).

reactant | N-(5-Bromo-4-fluoro-1H-pyrrolo[2,3-b]pyridin-3-yl)-3-methoxybenzamide | 0.590 mmol, 215 mg | BrC=1C(=C2C(=NC1)NC=C2NC(C2=CC(=CC=C2)OC)=O)F | C15H11BrFN3O2
reactant | (R)-tert-butyl piperidin-3-ylcarbamate | 2.07 mmol, 414 mg | N1C[C@@H](CCC1)NC(OC(C)(C)C)=O | C10H20N2O2
reactant | CH3CN water | CC#N.O
solvent | n-BuOH | 5 mL | CCCCO | C4H10O
product | (R)-tert-butyl 1-(5-bromo-3-(3-methoxybenzamido)-1H-pyrrolo[2,3-b]pyridin-4-yl)piperidin-3-ylcarbamate | 238 mg, 74% yield | BrC=1C(=C2C(=NC1)NC=C2NC(C2=CC(=CC=C2)OC)=O)N2C[C@@H](CCC2)NC(OC(C)(C)C)=O | C25H30BrN5O4
